US04840936
(4R)-2-[(1S)-1-(6-methoxy-2-napthyl)-ethyl]-thiazolidine-4-carboxylic acid (Compound No. 15/A)
A solution of (2S)-2-(6-methoxy-2-napthyl)-propanal (8.2 g; 38.3 mmoles) in acetone (50 ml) is added dropwise to a solution of (R)-cysteine hydrochloride (5.94 g; 37.6 mmoles) and of potassium acetate (3.69 g; 37.6 mmoles) in 100 ml of water and acetone (1:1 v/v) kept under stirring at room temperature.

reactant | (2S)-2-(6-methoxy-2-napthyl)-propanal | 38.3 mmoles, 8.2 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C=O)C | C14H14O2
reactant | (R)-cysteine hydrochloride | 37.6 mmoles, 5.94 g | Cl.N[C@@H](CS)C(=O)O
reactant | potassium acetate | 37.6 mmoles, 3.69 g | C(C)(=O)[O-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | (4R)-2-[(1S)-1-(6-methoxy-2-napthyl)-ethyl]-thiazolidine-4-carboxylic acid | COC=1C=C2C=CC(=CC2=CC1)[C@H](C)C1SC[C@H](N1)C(=O)O | C17H19NO3S
